US05929085
(a) 1,2,3,5,6,10b-Hexahydropyrrolo[2,1-a]isoquinoline
To a solution of 2,3,5,6-tetrahydro-1H-pyrrolo[2,1-a]isoquinolinium chloride (prepared by the method of S. Akaboshi, T. Kutsuma, and K. Achiwa, J. Pharm. Bull., 1960, 8, 14, from N-(2-phenylethyl)-4-chlorobutyramide (56.4 g, 0.25 mol) and extracted into isopropanol-dichloromethane) in methanol (700 ml) and acetic acid (50 ml) at 0° C. was added portionwise sodium cyanoborohydride (19 g) over 1 h. After stirring overnight, the solvent was concentrated in vacuo. The residue was dissolved in dilute sodium hydroxide and was extracted twice with dichloromethane. The dried (magnesium sulfate) organic phase was concentrated to give an oil which was distilled using a Kugelrohr distilling apparatus, b.p. 100° C. at 0.25 mm, to give the title compound (30.4 g, 70%) as a pale yellow oil.

reactant | 2,3,5,6-tetrahydro-1H-pyrrolo[2,1-a]isoquinolinium chloride | [Cl-].C1CC[N+]2=C1C1=CC=CC=C1CC2
reactant | N-(2-phenylethyl)-4-chlorobutyramide | 0.25 mol, 56.4 g | C1(=CC=CC=C1)CCNC(CCCCl)=O | C12H16ClNO
reactant | isopropanol dichloromethane | C(C)(C)O.ClCCl
reactant | sodium cyanoborohydride | 19 g | C(#N)[BH3-].[Na+]
solvent | methanol | 700 ml | CO | CH4O
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 1,2,3,5,6,10b-Hexahydropyrrolo[2,1-a]isoquinoline | 30.4 g, 70% | C1CCN2C1C1=CC=CC=C1CC2 | C12H15N
